US09227985B2
Step 8. 2-Chloro-7-(3,5-dimethylisoxazol-4-yl)-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
Phosphoryl chloride (1.5 mL, 16 mmol) was added to a vial charged with 7-(3,5-dimethylisoxazol-4-yl)-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (32 mg, 0.087 mmol) and the mixture was stirred overnight at 90° C. The mixture was quenched with ice-cold water, diluted with NaHCO3 and extracted with ethyl acetate. The organic extracts were collected and evaporated to afford the title compound. LCMS calc. for C19H15ClFN4O2 (M+H)+: m/z=385.1. found: 385.1.

reactant | Phosphoryl chloride | 16 mmol, 1.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-(3,5-dimethylisoxazol-4-yl)-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.087 mmol, 32 mg | CC1=NOC(=C1C1=CC(=C2C=3N(C(COC31)C=3C=NC=CC3)C(N2)=O)F)C | C19H15FN4O3
product | 2-Chloro-7-(3,5-dimethylisoxazol-4-yl)-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | ClC1=NC2=C(C=C(C3=C2N1C(CO3)C=3C=NC=CC3)C=3C(=NOC3C)C)F | C19H14ClFN4O2
